### PR TITLE
[Merged by Bors] - feat: add a version of `Ideal.associatesEquivIsPrincipal` for generators that are non-zero-divisors

### PR DESCRIPTION
**Pull request by xroblot**
This PR defines the following equiv: 
```lean
def Ideal.associatesNonZeroDivisorsEquivIsPrincipal : 
    Associates R⁰ ≃ {I : (Ideal R)⁰ // IsPrincipal (I : Ideal R)}
```
and also a `MulEquiv` version.

---

- [x] depends on: #12768
- [x] depends on: #12777
- [x] depends on: #13177

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 1]
```diff
@@ -910,3 +910,69 @@ lemma coe_ideal_map (I : Ideal A) :
...
+
+noncomputable section IsPrincipal
+
+namespace Ideal
+
+open nonZeroDivisors Submodule
+
+variable (R : Type*) [CommRing R] [IsDomain R]
+
+/-- The equivalence between `Associates R` and the principal ideals of `R` defined by sending the
```
Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Maps.lean:922]: Why do you prefer this theorem to be here? It is not about a ring homomorphism, I find it more appropriate for `Basic`.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:922]: Well, the new lemmas have to be in this file since otherwise I need to modify the imports in `Ideal.Basic`. Also they are closely related to `Ideal.associatesEquivIsPrincipal`, so I have decided to move it to this file. Finally, all these results are about `maps` on ideals so the file `Ideal.Maps` seemed more adequate :wink:

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 2]
```diff
@@ -910,3 +910,69 @@ lemma coe_ideal_map (I : Ideal A) :
...
+class of `x` to the principal ideal generated by `x`. -/
+noncomputable def associatesEquivIsPrincipal :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Maps.lean:924]: Can this be upgraded to a mul equiv (or something like that, it also presevers `0`)?

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: I could add the instance 
```lean
instance : MonoidWithZero {I : Ideal R // IsPrincipal I}
```
and then proving that it is `MulEquiv` is easy. I don't think there is a `MulEquivWithZero` but adding a separate lemma that states that is equal to zero iff zero should easy too.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: Maybe a sensible thing to do is to define the submonoid of principal ideals. I don't think it is a lot of work.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: Sure. I have a question though [Ideal.span_singleton_mul_span_singleton](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Operations.html#Ideal.span_singleton_mul_span_singleton) is defined in `Ideal.Operations` so there are several possibilities: 

1. Define the submonoid of principal ideals in this file, but then `associatesEquivIsPrincipal` has to be moved there too and @faenuccio maybe not like that :wink:
2. Move `Ideal.span_singleton_mul_span_singleton` to `Ideal.Maps` but it feel weird to separate it from a bunch of related results
3. Create new file `Ideal.IsPrincipal` and put everything related to principal ideals there.
4. ...

Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: I guess creating a new file is a good idea, and quite cheap.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: My plan is to create a new file`Ideal.IsPrincipal` and move everything (basic) related to `Ideal.span_singleton` and `Ideal.IsPrincipal` (aka `Submodule.IsPrincipal`) in this file. Before I do it though, I want to make sure we are in agreement about this. 
The other option would be to only put in this new file things about the submonoid of principal ideals, but then that file would need to imports all other basic `Ideal` files.

Comment (faenuccio) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: I am certainly all in favour of creating `Ideal.IsPrincipal` because many results are quite specific to principal ideals and they deserve a separate file. Especially if this will move these results out of `Ideal.Map` :wink:

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 3]
```diff
@@ -910,3 +910,69 @@ lemma coe_ideal_map (I : Ideal A) :
...
+    rw [Subtype.mk_eq_mk, hx, submodule_span_eq, span_singleton_eq_span_singleton]
+    exact Associates.mk_quot_out x
+
+@[simp]
+theorem associatesEquivIsPrincipal_apply (x : R) :
+    associatesEquivIsPrincipal R ⟦x⟧ = Ideal.span {x} := by
+  rw [associatesEquivIsPrincipal, Equiv.ofBijective_apply, span_singleton_eq_span_singleton]
+  exact Associates.mk_quot_out x
+
+theorem associatesEquivIsPrincipal_mem_nonZeroDivisors {x : R} :
```
Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Maps.lean:941]:
```suggestion
theorem associatesEquivIsPrincipal_mem_nonZeroDivisors_iff {x : R} :
```

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 4]
```diff
@@ -910,3 +910,69 @@ lemma coe_ideal_map (I : Ideal A) :
...
+  calc Associates R⁰ ≃ (Associates R)⁰ := associatesNonZeroDivisorsEquiv.toEquiv.symm
+    _ ≃ {I : {I : Ideal R // IsPrincipal I} // I.1 ∈ (Ideal R)⁰} :=
+      Equiv.subtypeEquiv (Ideal.associatesEquivIsPrincipal R)
+        (fun x ↦ by rw [← Associates.quot_out x, mk_mem_nonZeroDivisors_associates,
+          Ideal.associatesEquivIsPrincipal_mem_nonZeroDivisors])
+    _ ≃ {I : Ideal R // IsPrincipal I ∧ I ∈ (Ideal R)⁰} :=
+      Equiv.subtypeSubtypeEquivSubtypeInter (fun I ↦ IsPrincipal I) (fun I ↦ I ∈ (Ideal R)⁰)
+    _ ≃ {I : Ideal R // I ∈ (Ideal R)⁰ ∧ IsPrincipal I} := Equiv.setCongr (by simp_rw [and_comm])
+    _ ≃ {I : (Ideal R)⁰ // IsPrincipal I.1} := (Equiv.subtypeSubtypeEquivSubtypeInter _ _).symm
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Maps.lean:971]: Would you like to add a (simp) lemma saying that the effect of `associatesEquivIsPrincipal` on a non-zero-divisor is the same as the effect of `associatesNonZeroDivisorsEquivIsPrincipal`?

File: Mathlib/RingTheory/Ideal/Maps.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: Well, I'll go ahead and see what it looks like first.

File: Mathlib/RingTheory/Ideal/Maps.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:971]: Don't you mean the other way around?

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:971]: That is simplify from `associatesNonZeroDivisorsEquivIsPrincipal` to `associatesEquivIsPrincipal`?

Comment (faenuccio) [reply Mathlib/RingTheory/Ideal/Maps.lean:971]: Yes, sure, I am sorry: I meant to "connect" them in the right way, that is the one you propose.

File: Mathlib/RingTheory/Ideal/Maps.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: Hum, things are getting a lot more complicated than I thought and I do not think that moving everything about `span_singleton` in a `IsPrincipal` file is going to work.  I am going to explore a less ambitious option.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Maps.lean:924]: I opened #13177 which is provides an easier solution

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 5]
```diff
@@ -1387,6 +1387,13 @@ theorem Associates.mk_ne_zero' {R : Type*} [CommSemiring R] {r : R} :
   rw [Associates.mk_ne_zero, Ideal.zero_eq_bot, Ne, Ideal.span_singleton_eq_bot]
 #align associates.mk_ne_zero' Associates.mk_ne_zero'
 
+open scoped nonZeroDivisors in
+theorem Ideal.span_singleton_nonZeroDivisors {R : Type*} [CommSemiring R] [NoZeroDivisors R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Operations.lean:1391]: This holds without `Nontrivial R`.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Operations.lean:1391]:
```lean
open scoped nonZeroDivisors in
theorem Ideal.span_singleton_nonZeroDivisors {R : Type*} [CommSemiring R] [NoZeroDivisors R]
    {r : R} : span {r} ∈ (Ideal R)⁰ ↔ r ∈ R⁰ := by
  cases subsingleton_or_nontrivial R
  · exact ⟨fun _ _ _ ↦ Subsingleton.eq_zero _, fun _ _ _ ↦ Subsingleton.eq_zero _⟩
  · rw [mem_nonZeroDivisors_iff_ne_zero, mem_nonZeroDivisors_iff_ne_zero, ne_eq, zero_eq_bot,
      span_singleton_eq_bot]
```

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Operations.lean:1391]: Indeed! Thanks.
